US08580852B2
(S)-Ethyl 2-(2-(tert-butoxycarbonylamino)hexyloxy)acetate (11)
To as stirred solution of Boc-L-Nle-ol (0.50 g, 1.9 mmol) in dry tetrahydrofuran (15 mL), cooled at 0° C. under nitrogen, NaH (0.05 g, 2.1 mmol) was added. The reaction mixture was stirred for 45 min at 0° C., followed by addition of 18-crown-6 (0.25 g, 0.9 mmol) and subsequently a solution of ethyl bromoacetate (0.47 g, 2.8 mmol) in dry tetrahydrofuran (4 mL) was added dropwise at 0° C. The reaction mixture was stirred for 1 h at 0° C. and overnight at room temperature. The organic solvent was evaporated under reduced pressure and the residue was purified by column-chromatography using chloroform as eluent. Yield 55%; Oil; [a]D=−13.9 (c 1CHCl3); 1H NMR (200 MHz, CDCl3) δ 4.85-4.78 (m, 1H), 4.17 (q, J=7.4 Hz, 2H), 4.03 (s, 2H), 3.72-3.58 (m, 1H), 3.56-3.41 (m, 2H), 1.62-1.21 (m, 18H), 0.85 (t, J=6.6 Hz, 3H); 13C NMR (50 MHz, CDCl3) δ 170.3, 155.6, 78.9, 73.3, 68.4, 60.7, 50.3, 31.5, 28.3, 28.1, 22.5, 14.1, 13.9. Anal. Calcd for C15H29NO5: C, 59.38; H, 9.63; N, 4.62. Found: C, 59.16; H, 9.82; N, 4.51.

reactant | Boc-L-Nle-ol | 1.9 mmol, 0.50 g | N([C@@H](CCCC)CO)C(=O)OC(C)(C)C | C11H23NO3
reactant | NaH | 2.1 mmol, 0.05 g | [H-].[Na+]
reactant | 18-crown-6 | 0.9 mmol, 0.25 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | ethyl bromoacetate | 2.8 mmol, 0.47 g | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (S)-Ethyl 2-(2-(tert-butoxycarbonylamino)hexyloxy)acetate | Yield 55% | C(C)(C)(C)OC(=O)N[C@H](COCC(=O)OCC)CCCC | C15H29NO5
